US07897619B2
6-(1H-Pyrazol-4-yl)isoquinoline:
A mixture of 6-bromoisoquinoline (500 mg, 2.40 mmol) (commercially available from Kalexsyn Product List (Order Number 2003-005)), pyrazole-4-boronic acid pinacol ester (560 mg, 2.88 mmol) (commercially available from Acros Organics (Order Number 38294)), trans-dichlorobis(triphenylphosphine)palladium(II) (118 mg, 0.17 mmol), and sodium carbonate (764 mg, 7.21 mmol) in DME:EtOH:H2O=7:2:3 (4 mL) was heated at 140° C. for 10 minutes in a Biotage Initiator® microwave. After cooling to room temperature, the mixture was diluted with saturated aqueous NaHCO3 and extracted with 25% i-PrOH/CHCl3 (3×). The combined organic layers were dried over Na2SO4, filtered and adsorbed onto silica gel. The residue was purified using column chromatography (acetone/hexanes=0-50%) to provide the product as an off-white solid (177 mg, 37%). LCMS (API-ES) m/z: 196 (M+H+).

reactant | 6-bromoisoquinoline | 2.40 mmol, 500 mg | BrC=1C=C2C=CN=CC2=CC1 | C9H6BrN
reactant | pyrazole-4-boronic acid pinacol ester | 2.88 mmol, 560 mg | N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H15BN2O2
reactant | sodium carbonate | 7.21 mmol, 764 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | EtOH | CCO | C2H6O
solvent | DME | COCCOC | C4H10O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.17 mmol, 118 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | O | H2O
product | 6-(1H-Pyrazol-4-yl)isoquinoline | 177 mg, 37% | N1N=CC(=C1)C=1C=C2C=CN=CC2=CC1 | C12H9N3
